US04659718
A solution of butyl lithium in hexane (1.6M, 20.8 ml) was added slowly to a stirred mixture of 1,5-dimethyltetrazole (3.26 g) and dry tetrahydrofuran (70 ml) at 0° under nitrogen. The mixture was stirred at 0° for 0.5 hour and then 7-chloro-1H-3,1-benzoxazine-2,4-dione (2.17 g) was added in portions at 0° to 5°. The mixture was stirred at room temperature for 3 hours, then poured into water (200 ml) and acidified with 5N hydrochloric acid to pH 6 to 7. The mixture was extracted with dichloromethane (4×70 ml). The extracts were combined, dried over anhydrous magnesium sulphate and evaporated to give the novel compound 1-(2-amino-4-chlorophenyl)-2-(1-methyl-1-H-tetrazol-5-yl)ethanone as an oil that was used in the next stage without purification.

reactant | butyl lithium | C(CCC)[Li]
reactant | 1,5-dimethyltetrazole | 3.26 g | CN1N=NN=C1C | C3H6N4
reactant | 7-chloro-1H-3,1-benzoxazine-2,4-dione | 2.17 g | ClC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4ClNO3
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | hexane | 1.6M, 20.8 ml | CCCCCC | C6H14
solvent | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 1-(2-amino-4-chlorophenyl)-2-(1-methyl-1-H-tetrazol-5-yl)ethanone | NC1=C(C=CC(=C1)Cl)C(CC1=NN=NN1C)=O | C10H10ClN5O
